US06599902B2
Synthesis of 3-[1-{4-[2-(4-Cyclopropylmethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (210 mg, 0.4 mmol), HOBt (54 mg, 1 eq.) and EDAC (77 mg, 1 eq.) in DMF (1.5 mL) was stirred at rt for 30 mins. To the mixture was added 1-cyclopropylmethyl-piperazine (112 mg, 2 eq.) in DMF (1.5 mL). After stirring at rt for overnight, the precipitate was collected by vacuum filtration, washed with water, sodium bicarbonate and water and then dried to give 240 mg (94%) of the titled compound.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.4 mmol, 210 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 54 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 77 mg, 1 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-cyclopropylmethyl-piperazine | 112 mg, 2 eq. | C1(CC1)CN1CCNCC1 | C8H16N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-[1-{4-[2-(4-Cyclopropylmethyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 240 mg, 94% | C1(CC1)CN1CCN(CC1)C(CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C32H34Cl2N4O4S
